US04820834
1-(2-Amino-4-methyl-1-oxopentyl)-3-((2,3-dihydro-2-oxo-5-phenyl-1H-1,4-benzodiazepin-3-yl)methyl)-2,3-dihydro-1H-indole hydrochloride
The procedure of Example 2 was carried out in which (1-[(3-[(2,3-dihydro-2-oxo-5-phenyl-1,4-benzodiazepin-3-yl)methyl]-2,3-dihydro-1H-indol-1-yl) carbonyl]-3-methylbutyl]-carbamic acid-1,1-dimethylethyl ester was reacted with excess HCl gas in ethyl acetate at 0° C. to give the title compound as a foam.

reactant | (1-[(3-[(2,3-dihydro-2-oxo-5-phenyl-1,4-benzodiazepin-3-yl)methyl]-2,3-dihydro-1H-indol-1-yl) carbonyl]-3-methylbutyl]-carbamic acid-1,1-dimethylethyl ester | CC(C)(C)OC(NC(CC(C)C)C(=O)N1CC(C2=CC=CC=C12)CC1C(NC2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)=O)=O | C35H40N4O4
reactant | HCl | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(2-Amino-4-methyl-1-oxopentyl)-3-((2,3-dihydro-2-oxo-5-phenyl-1H-1,4-benzodiazepin-3-yl)methyl)-2,3-dihydro-1H-indole hydrochloride | Cl.NC(C(=O)N1CC(C2=CC=CC=C12)CC1C(NC2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)=O)CC(C)C | InChI=1S/C30H32N4O2.ClH/c1-19(2)16-24(31)30(36)34-18-21(22-12-7-9-15-27(22)34)17-26-29(35)33-25-14-8-6-13-23(25)28(32-26)20-10-4-3-5-11-20;/h3-15,19,21,24,26H,16-18,31H2,1-2H3,(H,33,35);1H
